US04882085
2-Dodecyloxypropanol:
1.9 g of LiAlH4 was added to 70 ml ether and the mixture was stirred for 4 hours. To the resultant mixture was added dropwise a solution of 16.5 g of (-)-ethyl-2-dodecyloxypropionate dissolved in 10 ml of ether. After completion of the dropwise addition, stirring was continued for 15 minutes. 50 ml of deionized water was added, and further 50 ml of 10% aqueous H2SO4 was added. The ether layer was separated and dried over anhydrous MgSO4. After drying, ether was evaporated. Yield: 12.0 g. Optical rotation [α]D26° =+11.1°.

reactant | LiAlH4 | 1.9 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (-)-ethyl-2-dodecyloxypropionate | 16.5 g | C(C)OC(C(C)OCCCCCCCCCCCC)=O | C17H34O3
reactant | water | 50 ml | O | H2O
reactant | H2SO4 | 50 ml | OS(=O)(=O)O | H2O4S
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 70 ml | CCOCC | C4H10O
product | 2-Dodecyloxypropanol | C(CCCCCCCCCCC)OC(CO)C | C15H32O2
